US06699887B2
A solution containing 115 mg of [5-(3,5-dichlorophenylthio)-3-methyl-1-phenyl-1H-pyrazol-4-yl]-methanol, 54 mg of benzyl bromide and 38 mg of sodium hydride (60% in mineral oil) in 3 ml of anhydrous N,N-dimethylformamide was stirred under nitrogen at 100° C. for 2 hours. Water (10 ml) was added and the mixture was extracted three times with 8 ml of dichloromethane. Combined extracts were dried over magnesium sulphate, filtered and evaporated. The residue was purified twice by flash chromatography on silica gel using ethyl acetate/petroleum ether (bp 40-60° C.) (1:4) then dichloromethane for the elution to give 35 mg of 4-benzyloxymethyl-5-(3,5-dichlorophenylthio)-3-methyl-1-phenyl-1H-pyrazole as a colourless gum. Mass spectrum (ES) m/z 455 [M+H]+, 496 [M+H+CH3CN]+. 1H NMR (DMSO-d6) 2.36 (s, 3H), 4.47 (s, 2H), 4.49 (s, 2H), 6.96 (d, 2H), 7.24-7.47 (m, 11H).

reactant | [5-(3,5-dichlorophenylthio)-3-methyl-1-phenyl-1H-pyrazol-4-yl]-methanol | 115 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(C(=NN1C1=CC=CC=C1)C)CO | C17H14Cl2N2OS
reactant | benzyl bromide | 54 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydride | 38 mg | [H-].[Na+]
reactant | Water | 10 ml | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 4-benzyloxymethyl-5-(3,5-dichlorophenylthio)-3-methyl-1-phenyl-1H-pyrazole | 35 mg | C(C1=CC=CC=C1)OCC=1C(=NN(C1SC1=CC(=CC(=C1)Cl)Cl)C1=CC=CC=C1)C | C24H20Cl2N2OS
